US05753664
2-Tert-butyl-4-chloro-5-[N-(3-hydroxypropyl)-N-(4-(4-chlorobenzoyl)benzyl)amino]-3(2H)-pyridazinone
In a solvent mixture of dioxane (5 ml) and water (5 ml) were dissolved 2-tert-butyl-4,5-dichloro-3(2H)-pyridazinone (473 mg) and 3-[4-(4-chlorobenzoyl)benzyl-amino]-1-propanol (1.30 g) and the mixture was stirred at 100° C. for 64 hours. After cooling to room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl solution and dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (developer; n-hexane: ethyl acetate=4:1-2:1) to provide the title compound as white powder (120 mg; yield 12%). 1H-NMR (CDCl3) δ: 1.63(9H,s), 1.83-1.98(3H,m), 3.51(2H,t,J=7.2Hz), 3.70(2H,m), 4.71(2H,m), 7.40(2H,d,J=8.4Hz), 7.46(2H,d,J=8.4Hz), 7.60(1H,s), 7.75(2H,d,J=8.4Hz), 7.77(2H,d,J=8.4Hz).

reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | 2-tert-butyl-4,5-dichloro-3(2H)-pyridazinone | 473 mg | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)Cl | C8H10Cl2N2O
reactant | 3-[4-(4-chlorobenzoyl)benzyl-amino]-1-propanol | 1.30 g | ClC1=CC=C(C(=O)C2=CC=C(CNCCCO)C=C2)C=C1 | C17H18ClNO2
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
product | 2-Tert-butyl-4-chloro-5-[N-(3-hydroxypropyl)-N-(4-(4-chlorobenzoyl)benzyl)amino]-3(2H)-pyridazinone | 120 mg, yield 12% | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)N(CC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)CCCO | C25H27Cl2N3O3
